US04443447
A sample of 6,7-dihydro-1-oxo-8-phenyl-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 100 ml of water and 0.176 g of sodium hydroxide was heated to obtain solution, filtered, then lyophilized to provide fluffy white solid sodium 6,7-dihydro-1-oxo-8-phenyl-1H,5H-benzo[ij]quinolizine-2-carboxylate, m.p. 230°-231° C. Analysis: Calculated for C20H16NNaO3.1.5H2O: %C, 65.2; %H, 5.2; %N, 3.8; Found: %C, 65.1; %H, 4.8; %N, 3.6. The structural assignment was confirmed by infrared spectral analysis.

reactant | 6,7-dihydro-1-oxo-8-phenyl-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | O=C1C(=CN2CCCC3=C2C1=CC=C3C3=CC=CC=C3)C(=O)O | C19H15NO3
reactant | sodium hydroxide | 0.176 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | sodium 6,7-dihydro-1-oxo-8-phenyl-1H,5H-benzo[ij]quinolizine-2-carboxylate | O=C1C(=CN2CCCC3=C2C1=CC=C3C3=CC=CC=C3)C(=O)[O-].[Na+] | InChI=1S/C19H15NO3.Na/c21-18-15-9-8-13(12-5-2-1-3-6-12)14-7-4-10-20(17(14)15)11-16(18)19(22)23;/h1-3,5-6,8-9,11H,4,7,10H2,(H,22,23);/q;+1/p-1
